US08557983B2
(R)-tert-butyl 1-(2,2-difluoroethyl)pyrrolidin-3-ylcarbamate
(R)-tert-butyl pyrrolidin-3-ylcarbamate (500 mg) was combined with 1,1-difluoro-2-iodoethane (618 mg) and N-ethyl-N-isopropylpropan-2-amine (1.4 mL) in N,N-dimethylformamide (6 mL) in a 20 mL vial. The reaction was heated to 70° C. for 48 hours. The reaction mixture was concentrated and the residue was purified by flash chromatography, eluting with a gradient of 0-5% methanol in dichloromethane to provide the title compound.

reactant | (R)-tert-butyl pyrrolidin-3-ylcarbamate | 500 mg | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | 1,1-difluoro-2-iodoethane | 618 mg | FC(CI)F | C2H3F2I
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.4 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | (R)-tert-butyl 1-(2,2-difluoroethyl)pyrrolidin-3-ylcarbamate | FC(CN1C[C@@H](CC1)NC(OC(C)(C)C)=O)F | C11H20F2N2O2
